US06716843B2
(S)-1-[N5-{(Imino)(butylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride
Starting from (S)-N2-(benzyloxycarbonyl)-arginine, butanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | butanesulphonyl chloride | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-1-[N5-{(Imino)(butylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride | Cl.N=C(NCCC[C@H](N)C(=O)N1CCCC1)NS(=O)(=O)CCCC | InChI=1S/C14H29N5O3S.ClH/c1-2-3-11-23(21,22)18-14(16)17-8-6-7-12(15)13(20)19-9-4-5-10-19;/h12H,2-11,15H2,1H3,(H3,16,17,18);1H/t12-;/m0./s1
